US07491710B2
A solution of 200 mg of 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-(diphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester in 4 ml of dioxane and 1 ml of a 4M hydrochloric acid solution in dioxane is stirred at ambient temperature. After 1 hour, 1 ml of a 4M hydrochloric acid solution in dioxane is added. The reaction medium is stirred overnight at ambient temperature. The suspension is filtered through sintered glass. The solid is rinsed with ethyl ether. The solid is taken up in 200 ml of dichloromethane and 8 ml of a 2N aqueous sodium hydroxide solution. The solution is stirred for a few minutes and is then separated by settling out. The organic phase is dried over magnesium sulfate, filtered, and concentrated under reduced pressure to obtain 114 mg of diphenylphosphinic acid 3-(2,3-dihydro-1H-indol-2-yl)-1H-indazol-5-yl ester.

reactant | 3-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-5-(diphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C37H38N3O6P
reactant | hydrochloric acid | 4M | Cl | ClH
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | diphenylphosphinic acid 3-(2,3-dihydro-1H-indol-2-yl)-1H-indazol-5-yl ester | 114 mg | N1C(CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22N3O2P
